US04145419
By the procedure of Step C in Example 1, methyl 8-amino-4H-imidazo-[2,1-c][1,4]-benzoxazine-2-carboxylate and ethyl chlorooxalate were reacted in dimethylformamide as solvent to obtain a 65% yield of methyl 8-(ethoxalylamino)-4H-imidazo-[2,1-c][1,4]-benzoxazine-2-carboxylate with a melting point of 186°-8° C.

reactant | methyl 8-amino-4H-imidazo-[2,1-c][1,4]-benzoxazine-2-carboxylate | NC=1C=CC2=C(N3C(CO2)=NC(=C3)C(=O)OC)C1 | C12H11N3O3
reactant | ethyl chlorooxalate | C(C(=O)OCC)(=O)Cl | C4H5ClO3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 8-(ethoxalylamino)-4H-imidazo-[2,1-c][1,4]-benzoxazine-2-carboxylate | 65% yield | C(=O)(C(=O)OCC)NC=1C=CC2=C(N3C(CO2)=NC(=C3)C(=O)OC)C1 | C16H15N3O6
